US07772227B2
To a solution of 4-cyclopentyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1-carboxylic acid ethyl ester (1.45 g, 4.9 mmol) in water (10 ml) and ethanol (15 ml) was added sodium hydroxide (1.96 g, 49 mmol) and the reaction mixture heated at reflux overnight (˜14 h). The reaction was cooled and acidifed with 5 M HCl. The resulting white precipitate was filtered and dried in vacuo to give 4-cyclopentyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1-carboxylic acid (1.13 g, 4.2 mmol) as a white solid.

reactant | 4-cyclopentyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1-carboxylic acid ethyl ester | 4.9 mmol, 1.45 g | C(C)OC(=O)C1=CN2C(CCC3=CC=CC1=C23)C2CCCC2 | C19H23NO2
reactant | sodium hydroxide | 49 mmol, 1.96 g | [OH-].[Na+]
reactant | HCl | 5 M | Cl | ClH
solvent | water | 10 ml | O | H2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-cyclopentyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1-carboxylic acid | 4.2 mmol, 1.13 g | C1(CCCC1)C1N2C3=C(C=CC=C3CC1)C(=C2)C(=O)O | C17H19NO2
